* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 15.8
R1 n1 a 4
R2 a nc 1
V2 nc nd DC 23.2
R3 nd ne 1
V3 b ne DC 13
V4 nf b DC 14.3
R4 nf 0 1
.op
.print dc V(a) V(b)
.end